US06156700
Preparation of 3-[3-(Bromoacetyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
To a solution of 3-(3-acetyl-1,2-benzisothiazol-5-yl)-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (0.800 g, 0.00217 mol) in ethyl acetate at room temperature is added hydrobromic acid (48%, 3 drops) followed by bromine in ethyl acetate (0.522 M, 4.35 ml, 0.00277 mol). The resultant mixture is stirred two hours at reflux, cooled to room temperature, diluted with ethyl acetate, washed sequentially with sodium thiosulfate, saturated sodium bicarbonate and brine, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to a white solid. The solid is recrystallized from hexanes:ethyl acetate to give the title compound as a white, crystalline solid (mp 191-193° C.) which is identified by NMR spectral analysis.

reactant | 3-(3-acetyl-1,2-benzisothiazol-5-yl)-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.00217 mol, 0.800 g | C(C)(=O)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C15H10F3N3O3S
reactant | bromine | BrBr | Br2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | hydrobromic acid | 3 drops | Br | BrH
solvent | ethyl acetate | 0.00277 mol, 0.522 M, 4.35 ml | C(C)(=O)OCC | C4H8O2
product | 3-[3-(Bromoacetyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | BrCC(=O)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C15H9BrF3N3O3S
